US08242104B2
Step 1: 4-Chloro-5-iodo-pyridin-2-ylamine
To a solution of 2-amino-4-chloropyridine (150 g, 0.78 mol) in DMF (1.5 L) was added NIS (341 g, 1.52 mol) and the reaction mixture stirred at RT for 18 h before being concentrated in vacuo to 300 mL volume. The resultant residue was poured into 10% aqueous sodium thiosulfate solution (1.2 L), stirred for 15 min and the precipitate formed collected by filtration, washed with water then dried at 35° C. in vacuo to give the title compound as a pale brown solid (185 g, 62%). 1H NMR 400 MHz (CDCl3) δ: 8.33 (1H, s), 6.68 (1H, s), 4.52 (2H, s).

reactant | 2-amino-4-chloropyridine | 0.78 mol, 150 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | NIS | 1.52 mol, 341 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
product | 4-Chloro-5-iodo-pyridin-2-ylamine | 185 g, 62% | ClC1=CC(=NC=C1I)N | C5H4ClIN2
